US04894325
STEP I: Formation of 5-(3-aminopropyl) deoxyuridine (Propylamino-dU)
Uridine is reacted with mercuric chloride (5 mmol) at pH 5.0. 5-mercurichloride-dU so produced is reacted with acrylonitrile and lithium tetrachloro-palladiate in methanol yielding 5-(2-cyanoethyl) which is reduced by hydrogenation at 3 atmospheres in the presence of 10% palladium on charcoal in methanol.

reactant | Uridine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-(3-aminopropyl) deoxyuridine | NCCCC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C12H19N3O5
